US09108939B2
D: 1,1,1,3,3,3-Hexafluoro-2-(4-((4-(methylamino)piperidin-1-yl)methyl)phenyl)propan-2-ol
A mixture of tert-butyl 1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)-piperidin-4-yl(methyl)carbamate (3.19 mmol, 1.5 g), dichloromethane (5 mL) and trifluoroacetic acid (5 mL) was stirred for 20 hours. Purification by SCX chromatography gave the title compound (1.1 g). MS (ESI) m/z 371.4 [M+H]+

reactant | tert-butyl 1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)-piperidin-4-yl(methyl)carbamate | 3.19 mmol, 1.5 g | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCC(CC2)N(C(OC(C)(C)C)=O)C)C=C1)(F)F | C21H28F6N2O3
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1,1,1,3,3,3-Hexafluoro-2-(4-((4-(methylamino)piperidin-1-yl)methyl)phenyl)propan-2-ol | 1.1 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)CN1CCC(CC1)NC)(F)F | C16H20F6N2O
